US07683185B2
6-Benzenesulfonyl-hexa-2,4-dienoic acid methyl ester (10b).
A mixture of 6-bromohexa-2,4-dienoic acid methyl ester (0.41 g, 2.0 mmol), sodium benzene sulfinate (0.33 g, 2.0 mmol) and tetra-n-butylammonium iodide (37 mg, 0.1 mmol) was heated at reflux in dry THF (10 mL) under an atmosphere of nitrogen for 2 hours. The resulting slurry was allowed to cool to 20° C. and filtered. The filtrate was concentrated under reduced pressure to give an oil that was dissolved in ethyl acetate (20 mL). This solution was washed successively with saturated aqueous sodium hydrogen carbonate (10 mL), distilled water (10 mL), then with brine (10 mL). The organic layer was dried over anhydrous MgSO4, filtered and concentrated under reduced pressure to give an oil that was purified by flash chromatography (7:3 to 1:1 to 1:1 60-80° C. petroleum ether:diethyl ether) to give a solid that was recrystallised to give the title compound (0.39 g, 73%) as white crystals, mp 105° C.

reactant | 6-bromohexa-2,4-dienoic acid methyl ester | 2.0 mmol, 0.41 g | COC(C=CC=CCBr)=O | C7H9BrO2
reactant | sodium benzene sulfinate | 2.0 mmol, 0.33 g | C1(=CC=CC=C1)S(=O)[O-].[Na+]
catalyst | tetra-n-butylammonium iodide | 0.1 mmol, 37 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 6-Benzenesulfonyl-hexa-2,4-dienoic acid methyl ester | 0.39 g, 73% | COC(C=CC=CCS(=O)(=O)C1=CC=CC=C1)=O | C13H14O4S
